US09388185B2
Step 4. 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine
To a stirred solution of N,N-diisopropylamine (0.610 mL, 4.25 mmol) in tetrahydrofuran (2.0 mL) at −78° C., n-butyllithium (2.5 M in hexanes, 1.70 mL, 4.25 mmol) was added dropwise. After the white precipitate formed, the mixture was warmed up to 0° C. for 10 minutes. The resulting resulted solution was added to a stirred solution of 2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine (1.30 g, 3.07 mmol) in tetrahydrofuran (10 mL) at 78° C. After 30 min, a solution of 1,2-dibromo-1,1,2,2-tetrachloroethane (1.10 g, 3.38 mmol) in tetrahydrofuran (6 mL) was added dropwise. After another 1 hour, the reaction mixture was quenched with saturated aq. NH4Cl, then extracted with methylene chloride. The combined organic layers were dried over MgSO4, and then concentrated. The residue was purified on silica gel (eluting with 0 to 50% EtOAc in hexanes) to give the desired product (1.30 g, 84%). LCMS calculated for C22H21BrN3O4S (M+H)+: m/z=502.0. Found: 502.0; 1H NMR (400 MHz, CDCl3): δ 8.15-8.12 (m, 3H), 7.68-7.58 (m, 1H), 7.51-7.47 (m, 2H), 6.88 (s, 1H), 6.31 (d, J=2.0 Hz, 2H), 6.28 (t, J=2.5 Hz, 1H), 3.72 (s, 6H), 3.16-3.12 (m, 2H), 2.99-2.96 (m, 2H) ppm.

reactant | N,N-diisopropylamine | 4.25 mmol, 0.610 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 4.25 mmol, 2.5 M, 1.70 mL | C(CCC)[Li]
reactant | 2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 3.07 mmol, 1.30 g | COC=1C=C(C=C(C1)OC)CCC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C22H21N3O4S
reactant | 1,2-dibromo-1,1,2,2-tetrachloroethane | 3.38 mmol, 1.10 g | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 1.30 g, 84% | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1S(=O)(=O)C1=CC=CC=C1 | C22H20BrN3O4S
